US07399780B2
2-Hydroxy-3-{4-[(4-methylpiperazin-1-yl)carbonyl]pyridin-2-yl}-1H-indole-5-carbonitrile hydrochloride
The reaction was performed as described in Example 49 using 5-cyanooxindole and 1-(2-chloroisonicotinoyl)-4-methylpiperazine. The crude product was purified on a silica gel column using chloroform/ethanol/conc. NH3(aq), (100:10:1), as the eluent. The base (20 mg) was dissolved in chloroform and a solution of HCl in diethyl ether was added until acidic pH. The formed precipitation was filtered and washed with diethyl ether. Drying in vacuo afforded 10 mg the title compound as a red solid. Yield: 2%: 1H NMR (D2O, 400 MHz) δ 7.82-7.77 (m, 1 H), 7.18-7.11 (m, 1 H), 7.09-7.05 (m, 1 H), 7.04-6.98 (m, 1 H), 6.78-6.71 (m, 1 H), 6.67-6.61 (m, 1 H), 4.05-3.94 (m, 1 H), 3.93-3.82 (m, 1 H), 3.67-3.48 (m, 2 H), 3.48-3.37 (m, 1 H), 3.35-3.04 (m, 3 H), 2.92-2.80 (m, 3 H); MS (TSP) m/s 362 (M++1).

reactant | 5-cyanooxindole | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 1-(2-chloroisonicotinoyl)-4-methylpiperazine | ClC=1C=C(C(=O)N2CCN(CC2)C)C=CN1 | C11H14ClN3O
product | 2-Hydroxy-3-{4-[(4-methylpiperazin-1-yl)carbonyl]pyridin-2-yl}-1H-indole-5-carbonitrile hydrochloride | 10 mg, Yield: 2% | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=CC(=C1)C(=O)N1CCN(CC1)C)C#N | InChI=1S/C20H19N5O2.ClH/c1-24-6-8-25(9-7-24)20(27)14-4-5-22-17(11-14)18-15-10-13(12-21)2-3-16(15)23-19(18)26;/h2-5,10-11,23,26H,6-9H2,1H3;1H
